US08735424B2
To a solution of (E)-2-(2-chloro-5-nitropyridin-4-yl)-N,N-dimethylethenamine (1.0 equiv) in 1:1 THF/H2O (0.1 M) was added sodium periodate (3.0 equiv) portionwise. The resulting solution was stirred at rt for 6 hours, at which time the white solid was filtered and rinsed with ethyl acetate. The entire filtrate was washed with NaHCO3(sat.), with NaCl(sat.), dried over MgSO4, filtered and concentrated. Purification by column chromatography (20% ethyl acetate/hexanes, Rf=0.3) yielded 2-chloro-5-nitroisonicotinaldehyde (71%). 1H NMR (CDCl3): δ 10.51 (s, 1H), 9.25 (s, 1H), 7.75 (s, 1H).

reactant | (E)-2-(2-chloro-5-nitropyridin-4-yl)-N,N-dimethylethenamine | 1.0 equiv | ClC1=NC=C(C(=C1)/C=C/N(C)C)[N+](=O)[O-] | C9H10ClN3O2
reactant | sodium periodate | 3.0 equiv | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF H2O | 0.1 M | C1CCOC1.O
product | 2-chloro-5-nitroisonicotinaldehyde | 71% | ClC=1C=C(C=O)C(=CN1)[N+](=O)[O-] | C6H3ClN2O3
